US06972286B2
Step 1 Preparation of 2-[2-(hydroxymethyl)-4-nitrophenyl]ethanol
A solution of 4-nitrohomophthalic acid (313.12 g, 58.27 mmol, J. Amer. Chem. Soc., 1969, 91, 2467) in dry THF (291 mL) under N2 is treated with NaBH4 (6.61 g, 174.8 mmol) portionwise over 15 mins. The resulting mixture is cooled in an ice bath and BF3.Et2O (22.15 mL, 174.8 mmol) is added dropwise over 35 mins. The cooling bath is removed, and the reaction mixture is stirred vigorously at ambient temperature for 18 hrs and is then cooled in an ice bath, quenched by the slow addition of 1N aqueous NaOH (233 mL, 4 equiv.) and stirred at ambient temperature for an additional 4 hrs. The THF is then removed under reduced pressure, the resulting precipitate is isolated by filtration, the filtrate is extracted with MeOH/CH2Cl2 (10/90, 3×150 mL), and the precipitate is combined with the organic extracts, diluted with additional MeOH/CH2Cl2 (10/90, 400 mL), dried over anhydrous Na2SO4, concentrated under reduced pressure and recrystallized from EtOAc/hexane to give 8.16 g (71%) of the title compound as a beige solid, mp 80-81° C. (decomp.).

reactant | 4-nitrohomophthalic acid | 58.27 mmol, 313.12 g | [N+](=O)([O-])C=1C=C(C(CC(=O)O)=CC1)C(=O)O | C9H7NO6
reactant | NaBH4 | 174.8 mmol, 6.61 g | [BH4-].[Na+]
reactant | BF3.Et2O | 174.8 mmol, 22.15 mL | B(F)(F)F.CCOCC
reactant | NaOH | 1N, 233 mL, 4 equiv. | [OH-].[Na+]
solvent | THF | 291 mL | C1CCOC1 | C4H8O
product | 2-[2-(hydroxymethyl)-4-nitrophenyl]ethanol | 8.16 g, 71% | OCC1=C(C=CC(=C1)[N+](=O)[O-])CCO | C9H11NO4
